US07977358B2
D] 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid
To a solution of 5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (605 mg, 1.55 mmol) in 5 ml THF, 2.5 ml methanol and 2.5 ml water, was added lithium hydroxide monohydrate (111 mg, 4.63 mmol). The solution was heated at 80° C. for 2 h. The reaction mixture was cooled, diluted with EtOAc and washed twice with 10% KHSO4 and brine. The aqueous phases were extracted with EtOAc and with three portions of CH2Cl2. The combined organic layers were dried over magnesium sulfate, and evaporated. The residue was precipitated from tBuOMe to give a white solid (436 mg, 76%) of the title compound. MS: 364.1 (MH+).

reactant | 5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.55 mmol, 605 mg | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1 | C19H16F3N3O3
reactant | lithium hydroxide monohydrate | 4.63 mmol, 111 mg | O.[OH-].[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | 2.5 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | 436 mg, 76% | CC1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C17H12F3N3O3
